US06809097B1
A solution of 5-((3-(3-morpholinopropoxy)-4-methoxyanilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (700 mg, 1.66 mmol) in phenyl ether (5 ml) was heated at reflux for 2 minutes. After cooling, the residue was triturated with ether and acetone. The solid was collected by filtration, washed with acetone followed by ether and dried under vacuum to give 6-methoxy-7-(3-morpholinopropoxy)-1,4-dihydroquinolin-4-one (207 mg, 41%).

reactant | 5-((3-(3-morpholinopropoxy)-4-methoxyanilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 1.66 mmol, 700 mg | O1CCN(CC1)CCCOC=1C=C(NC=C2C(OC(OC2=O)(C)C)=O)C=CC1OC | C21H28N2O7
solvent | phenyl ether | 5 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-methoxy-7-(3-morpholinopropoxy)-1,4-dihydroquinolin-4-one | 207 mg, 41% | COC=1C=C2C(C=CNC2=CC1OCCCN1CCOCC1)=O | C17H22N2O4
